US05098925
a. Spiro[6,7,8,9-tetrahydro-5H-benzocycloheptene-5,1'-(1,3-dihydroisobenzofuran)]-3'-one
Using a procedure similar to that described in Example 1a except adding 1-benzosuberone to the solution of dilithiated benzamide, the title compound was obtained as a white crystalline solid (46%), mp 150°-151° C. Analysis for C18H16O2 : Calculated: C, 81.79; H, 6.10. Found: C, 81.97; H, 6.08.

reactant | 1-benzosuberone | C1CCC(=O)C2=CC=CC=C2C1 | C11H12O
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | Spiro[6,7,8,9-tetrahydro-5H-benzocycloheptene-5,1'-(1,3-dihydroisobenzofuran)]-3'-one | C12(OC(C3=CC=CC=C13)=O)CCCCC1=C2C=CC=C1 | C18H16O2
